US05352792
To a solution of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetyl]amino-3-(1-methyl-5-tetrazolyl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (576 mg: 0.555 mMol.) in a mixture of anisole (2 ml) and nitromethane (8 ml) cooling at -30° to -40° C. is added a solution of aluminum chloride (591 mg: 4.44 mMol.) in anisole (2 ml), and the mixture is stirred at -30° to -40° C. for 1 hour. The reaction mixture is diluted with 1N-hydrochloric acid (5 ml) and water and washed with ethyl acetate. The aqueous layer is concentrated under reduced pressure to remove the organic solvents, and purified by styrene-divinylbenzene copolymer chromatography (methanol: water=4:1). The resulting powder is washed with ethyl acetate to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetyl]amino-3-(1-methyl-5-tetrazolyl)thiomethylthio-3-cephem-4-carboxylic acid as yellow powder (200 mg). Yield: 68%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetyl]amino-3-(1-methyl-5-tetrazolyl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.555 mMol, 576 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC2=NN=NN2C | C52H47N9O6S4
reactant | aluminum chloride | 4.44 mMol, 591 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 8 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | O | H2O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetyl]amino-3-(1-methyl-5-tetrazolyl)thiomethylthio-3-cephem-4-carboxylic acid | 200 mg, Yield: 68% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=S)O)C1=O)=N/O | C15H15N9O4S4
